US05770755
1-(9-(2-Vinylfluorenyl)-2-(9-Fluorenyl)ethane
To 1.15 g (6.0 mmol) 2-vinylfluorene in 100 mL diethyl ether was added 3.75 mL (6.0 mmol) n-butyllithium (1.6M in hexane). The reaction mixture was stirred for 4 hours at room temperature. Then 1.64 g (6.0 mmol) 1-bromo-2-(9-fluorenyl)ethane was added and the mixture was stirred for 14 hours at room temperature. The precipitate was removed by filtration, washed with methanol, filtered with pentane using silica gel 60, and concentrated by evaporation under vacuum. The yield was 1.69 g (73%) 1-(9-(2-vinyl)fluorenyl)-2-(9-fluorenyl)ethane as a colorless solid.

reactant | 2-vinylfluorene | 6.0 mmol, 1.15 g | C(=C)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H12
reactant | n-butyllithium | 6.0 mmol, 1.6M, 3.75 mL | C(CCC)[Li]
reactant | 1-bromo-2-(9-fluorenyl)ethane | 6.0 mmol, 1.64 g | BrCCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H13Br
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 9-(2-Vinylfluorenyl)-2-(9-Fluorenyl)ethane | C(=C)C1=C(C=2CC3=CC=CC=C3C2C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)CC | C30H24
